US08912188B2
To a solution of (S)-methyl 2-(4-fluoro-2-methylphenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (120 mg, 0.32 mmol) in methanol (20 mL) and water (1 mL) was added sodium hydroxide (50.7 mg, 1.27 mmol,) and the reaction was stirred overnight at room temperature. The resulting mixture was concentrated in vacuo, adjusted to pH 6 with aqueous HCl (3N), collected by filtration to afford (S)-2-(4-fluoro-2-methylphenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (85.7 mg, 74%).

reactant | (S)-methyl 2-(4-fluoro-2-methylphenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.32 mmol, 120 mg | FC1=CC(=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)C | C22H22FN3O2
reactant | sodium hydroxide | 1.27 mmol, 50.7 mg | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | (S)-2-(4-fluoro-2-methylphenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 85.7 mg, 74% | FC1=CC(=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)O)C | C21H20FN3O2
